US09193653B1
40.3 g (0.118 mole) 12-tricosanol (Example 2) was heated with 3.0 g (0.13 mole, 10% molar excess) sodium metal to 130° C. for a period of 15 hrs during which most of the sodium dissolved with hydrogen evolution to form the corresponding alkoxide, sodium 12-tricosanolate, which is liquid at 130° C. The thus prepared sodium 12-tricosanolate was subsequently treated with 20 ml (0.19 mole, 60% molar excess) n-butyl chloride in the presence of 20 ml THF at 90° C. for 7 days. The resulting reaction mixture was quenched with aqueous sodium hydroxide and extracted with heptane. The heptane solution was cooled to 20° F. during which 8.9 g of solid precipitate (unconverted 12-tricosanol and 12-tricosanone) formed and was removed. The heptane was evaporated at 80° C., 10 torr to yield the 12-tricosanyl n-butyl ether (33.2 g) as a colorless oil having the following properties: VI=147, VIS100=2.768 cSt, VIS40=9.395, cloud point: −3° C., pour point: −4° C.

reactant | sodium 12-tricosanolate | CCCCCCCCCCCC(CCCCCCCCCCC)[O-].[Na+]
reactant | n-butyl chloride | 0.19 mole, 20 ml | C(CCC)Cl | C4H9Cl
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 12-tricosanyl n-butyl ether | 33.2 g | C(CCC)OC(CCCCCCCCCCC)CCCCCCCCCCC | C27H56O
